US05096890
(A) Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-[2-(indan-5-yl)ethyl]pyrrolidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine (0.6 g--see Preparation 8), 5-(2-bromoethyl)indane (0.49 g--see Preparation 14), anhydrous potassium carbonate (0.6 g) and acetonitrile (20 ml) was heated under reflux for 1.25 hours. The mixture was partitioned between 10% aqueous potassium carbonate (10 ml) and dichloromethane (50 ml), the layers were separated and the aqueous layer extracted with dichloromethane (3×100 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 6%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a foam, yield 0.29 g.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | 0.6 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
reactant | 5-(2-bromoethyl)indane | 0.49 g | BrCCC=1C=C2CCCC2=CC1 | C11H13Br
reactant | potassium carbonate | 0.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-[2-(indan-5-yl)ethyl]pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)CCC=1C=C2CCCC2=CC1 | C29H32N2O
